US06235680B1
1b. 2-Methoxy-N-(4-aminophenylsulfonyl)benzamide
50.0 g (0.15 mol) of 2-methoxy-N-(4-nitrophenylsulfonyl)benzamide are suspended in a mixture of 450 ml of ethanol and 750 ml of 2N HCl, and the mixture is heated to 50° C. 97.2 g (1.5 mol) of zinc powder are added in portions at this temperature and the mixture is stirred for a further 2 hours. After cooling, the mixture is filtered, the filtrate is concentrated to half its volume and cooled, and the precipitate is filtered off with suction and dried; Yield: 43.6 g (96%); M.p.: 180-182° C.

reactant | 2-methoxy-N-(4-nitrophenylsulfonyl)benzamide | 0.15 mol, 50.0 g | COC1=C(C(=O)NS(=O)(=O)C2=CC=C(C=C2)[N+](=O)[O-])C=CC=C1 | C14H12N2O6S
solvent | ethanol | 450 ml | C(C)O | C2H6O
solvent | HCl | 2N, 750 ml | Cl | ClH
catalyst | zinc | 1.5 mol, 97.2 g | [Zn] | Zn
product | 2-Methoxy-N-(4-aminophenylsulfonyl)benzamide | COC1=C(C(=O)NS(=O)(=O)C2=CC=C(C=C2)N)C=CC=C1 | C14H14N2O4S
